US08957089B2
125.4 tert-Butyl 7-cyano-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate
Dipalladium trisdibenzylidene acetone (0.14 g, 0.153 mmol) and diphenylphosphinoferrocene (0.338 g, 0.61 mmol) were suspended in dimethylformamide (15 ml) under an argon atmosphere. tert-Butyl 1-[1-(pyridin-2-yl)cyclobutyl]-7-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydroisoquinoline-2(1H)-carboxylate (0.782 g, 1.562 mmol) was added and the reaction mixture was heated to 90° C. Zinc cyanide (0.215 g, 1.831 mmol) was added over 30 min in small portions. Stirring at 90° C. was continued for 15 min. After cooling to room temperature the catalyst was removed by filtration and washed with dimethylformamide. The dimethylformamide filtrate was poured in water (200 ml). The water was extracted with dichloromethane (3×). The combined organic extracts were washed with water, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 197 mg (0.506 mmol, 33%).

reactant | tert-Butyl 1-[1-(pyridin-2-yl)cyclobutyl]-7-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydroisoquinoline-2(1H)-carboxylate | 1.562 mmol, 0.782 g | N1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C24H27F3N2O5S
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | diphenylphosphinoferrocene | 0.61 mmol, 0.338 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
catalyst | Zinc cyanide | 1.831 mmol, 0.215 g | [C-]#N.[Zn+2].[C-]#N
product | tert-Butyl 7-cyano-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate | C(#N)C1=CC=C2CCN(C(C2=C1)C1(CCC1)C1=NC=CC=C1)C(=O)OC(C)(C)C | C24H27N3O2
